US06743789B2
4-(2,4-Dimethoxy-benzyl)-7-methylsulfanyl-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione
A suspension of 6-methylsulfanyl-1H-benzo[d][1,3]oxazine-2,4-dione (4.8 g, 23 mmol) containing (2,4-dimethoxy-benzylamino)-acetic acid (5.6 g, 25 mmol) in p-xylene (50 mL) was heated under reflux (150° C.) for 3 h. After cooling to room temperature the precipitate was filtered off and washed with p-xylene (2×20 ml). Yield: 7.5 g (89%). m/z 373 (MH+).

reactant | 6-methylsulfanyl-1H-benzo[d][1,3]oxazine-2,4-dione | 23 mmol, 4.8 g | CSC1=CC2=C(NC(OC2=O)=O)C=C1 | C9H7NO3S
reactant | (2,4-dimethoxy-benzylamino)-acetic acid | 25 mmol, 5.6 g | COC1=C(CNCC(=O)O)C=CC(=C1)OC | C11H15NO4
solvent | p-xylene | 50 mL | CC=1C=CC(=CC1)C | C8H10
product | 4-(2,4-Dimethoxy-benzyl)-7-methylsulfanyl-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | COC1=C(CN2CC(NC3=C(C2=O)C=C(C=C3)SC)=O)C=CC(=C1)OC | C19H20N2O4S
